US07728150B2
3-(1-Ethyl-5-fluoro-indan-1-yl)-1H-indol-7-ylamine
A mixture of [3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-carbamic acid benzyl ester (7.78 g, 18.2 mmol) and 20% palladium hydroxide on carbon (1.6 g) in ethanol is hydrogenated at 50° C. at 60 psi for 18 hours. After filtration of the catalyst the solution is concentrated in vacuo to furnish the title compound as a black solid (5.04 g, 94%). LC-MS m/z 295.1 (M++1).

reactant | [3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-carbamic acid benzyl ester | 18.2 mmol, 7.78 g | C(C1=CC=CC=C1)OC(NC=1C=CC=C2C(=CNC12)C1(CCC2=CC(=CC=C12)F)CC)=O | C27H25FN2O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 1.6 g | [OH-].[OH-].[Pd+2]
product | 3-(1-Ethyl-5-fluoro-indan-1-yl)-1H-indol-7-ylamine | 5.04 g, 94% | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=C(C=CC=C12)N | C19H19FN2
